data/oMe_Silver.jsonl
{"reaction_id": "NR-144_1-c1ccccc1_2-CC_3-F_4-CC(C)C_5-Oc1ccccc1","name": "Michael Addition","level": "medium","reactants_smiles": ["C(c1ccccc1)(CC)=C(F)C(=O)Oc1ccccc1","S([H])CC(C)C"],"products_smiles": ["S(CC(C)C)C(c1ccccc1)(CC)C(F)C(=O)Oc1ccccc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]CC(C)C","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(CC(C)C)C(c1ccccc1)(CC)C(F)=C([O-])Oc1ccccc1","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CC(C)C)C(c1ccccc1)(CC)C(F)C(=O)Oc1ccccc1","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
{"reaction_id": "NR-237_1-c1ccccc1_2-c1ccc(OC)cc1_3-c1ccc(OC)cc1_4-c1ccc(F)cc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["c1ccccc1N=[N+]=[N-]","P(c1ccc(OC)cc1)(c1ccc(OC)cc1)(c1ccc(F)cc1)"],"products_smiles": ["c1ccccc1N","O=P(c1ccc(OC)cc1)(c1ccc(OC)cc1)(c1ccc(F)cc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1N=[N+]=N[P+](c1ccc(OC)cc1)(c1ccc(OC)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1N1N=NP1(c1ccc(OC)cc1)(c1ccc(OC)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1N=P(c1ccc(OC)cc1)(c1ccc(OC)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[NH+]=P(c1ccc(OC)cc1)(c1ccc(OC)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1N[P](O)(c1ccc(OC)cc1)(c1ccc(OC)cc1)(c1ccc(F)cc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
